US07026326B2
2-[2-(Isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-5-(3-vinyl-phenyl)-3H-pyrimidin-4-one
To a 250 mL RBF, was added 5-(3-bromo-phenyl)-2-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one (0.48 g, 1.0 mmol), 50 mL xylene, 5 mL DMF and 0.58 mL tributhyl(vinyl)tin. The mixture was degassed by nitrogen bubbled through for 1 h. After added Pd(PPh)4 (58 mg, 0.05 mmol), the mixture was warmed up to 140° C. and stirred for 1 h under nitrogen. The mixture was cooled down to rt, 20 mL 10% KF solution was added and stirred for 30 min. The mixture was diluted with 200 mL dichloromethane, washed with sat. NaHCO3 and brine. After purified by flash chromatography, the title compound was obtained in 0.28 g as pale yellow solid. MS (ES+): 430 (M+H)+; (ES−): 428 (M−H).

reactant | 5-(3-bromo-phenyl)-2-[2-(isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 1.0 mmol, 0.48 g | BrC=1C=C(C=CC1)C=1C(N(C(=NC1C1=CC=NC=C1)N1C(CCC1)CNC(C)C)C)=O | C24H28BrN5O
reactant | xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | KF | 20 mL | [F-].[K+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-[2-(Isopropylamino-methyl)-pyrrolidin-1-yl]-3-methyl-6-pyridin-4-yl-5-(3-vinyl-phenyl)-3H-pyrimidin-4-one | C(C)(C)NCC1N(CCC1)C1=NC(=C(C(N1C)=O)C1=CC(=CC=C1)C=C)C1=CC=NC=C1 | C26H31N5O
